US06034248
1-[4-(1H-1-Tetrazolyl)phenyl]-2(1H,3H)-imidazolone (5.0 g) was dissolved in acetic acid (500 ml) and 10% palladium-carbon (50% wet, 5.0 g) was added. The resulting mixture was stirred at 40° C. for 4 hours under a hydrogen atmosphere. The catalyst was filtered and washed with acetic acid. The filtrate and the washings were combined and distilled off under reduced pressure. The residue was crystallized from ethanol to give 1-[4-(1H-1-tetrazolyl)phenyl]-2-imidazolidinone (4.1 g) as colorless crystals.

reactant | 1-[4-(1H-1-Tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 5.0 g | N1(N=NN=C1)C1=CC=C(C=C1)N1C(NC=C1)=O | C10H8N6O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 5.0 g | [C].[Pd]
product | 1-[4-(1H-1-tetrazolyl)phenyl]-2-imidazolidinone | 4.1 g | N1(N=NN=C1)C1=CC=C(C=C1)N1C(NCC1)=O | C10H10N6O
